US05811461
Compound 1: N-[3,5-Dichloro-4-(1,2,3,3,3-pentafluoropropenoxy)phenyl]-N'-(2,6-difluorobenzoyl) urea
Dissolve 0.77 g 3,5-dichloro-4-(1,2,3,3,3-pentafluoropropenoxy) aniline in 8 mL 1,2-dichloroethane under an atmosphere of nitrogen at room temperature. Add 0.50 g 2,6-difluorobenzoyl isocyanate dissolved in 5.8 mL dichloroethane dropwise over a 10 minute period. Stir and warm to 40° C. for a 2 hour period. Chill in ice water bath and filter the white solid 0.93 g, mp 177°-80° C. Proton nmr and mass spectra were consistent with the proposed structure. Anal. calcd C17 H7Cl2F7N2O3 :C, 41.57; H, 1.44; N, 5.70. Found: C, 41.65; H, 1.31; N, 5.59.

reactant | 3,5-dichloro-4-(1,2,3,3,3-pentafluoropropenoxy) aniline | 0.77 g | ClC=1C=C(N)C=C(C1OC(=C(C(F)(F)F)F)F)Cl | C9H4Cl2F5NO
reactant | 2,6-difluorobenzoyl isocyanate | 0.50 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
solvent | dichloroethane | 5.8 mL | ClC(C)Cl | C2H4Cl2
product | N-[3,5-Dichloro-4-(1,2,3,3,3-pentafluoropropenoxy)phenyl]-N'-(2,6-difluorobenzoyl) urea | ClC=1C=C(C=C(C1OC(=C(C(F)(F)F)F)F)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C17H7Cl2F7N2O3
